US07608563B2
135 mg (0.572 mmol) of 6-chloro-3-(2-methylphenoxy)-4-pyridazinol (Compound No. 128) obtained in Example 1 and methylene chloride (6 mL) were mixed, 247 mg (purity 80%, 1.14 mmol) of m-chloroperbenzoic acid was added to the mixture and the resulting mixture was refluxed for 16 hours with stirring. The mixture was allowed to stand at room temperature for 2 days, the reaction mixture was poured in a saturated aqueous sodium sulfite solution, and washed with methylene chloride. The aqueous layer was made acidic with hydrochloric acid, extracted with methylene chloride, then washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (YMC GEL, SIL60, 350/250 mesh, eluted with ethyl acetate) to obtain 32.6 mg (0.129 mmol, Yield: 22.6%) of 6-chloro-3-(2-methylphenoxy)-4-pyridazinol 1-oxide (Compound No. 129).

reactant | 6-chloro-3-(2-methylphenoxy)-4-pyridazinol | 0.572 mmol, 135 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1)C)O | C11H9ClN2O2
reactant | m-chloroperbenzoic acid | 1.14 mmol, 247 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-3-(2-methylphenoxy)-4-pyridazinol 1-oxide | 0.129 mmol, 32.6 mg, Yield: 22.6% | ClC1=CC(=C(N=[N+]1[O-])OC1=C(C=CC=C1)C)O | C11H9ClN2O3
